US08026257B2
(±)-tert-Butyl 4-((1-(3-cyano-5-(trifluoromethyl)-1H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate.
(±)-tert-Butyl 4-((1-(3-cyano-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate (95 mg, 0.14 mmol) was treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 2 mL) for 3 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvent was concentrated to afford a crude product which was dissolved in dichloromethane (3 mL), cooled to 0° C., and treated with di-tert-butyl carbonate (63 mg, 0.29 mmol) and triethylamine (30 μL, 0.22 mmol). After 1 h, the reaction was treated with a few drops of 2 M ammonia in methanol and concentrated. The residue was dissolved in ethyl acetate, washed with water (2×), brine (2×), dried over sodium sulfate, filtered and concentrated. Flash chromatography on silica gel (15% ethyl acetate/hexanes) afforded 40 mg (53%). 1H-NMR (CDCl3, 500 MHz) δ 7.99 (s, 1H), 7.38-7.46 (m, 3H), 7.31-7.33 (m, 3H), 4.70 (q, J=6.7 Hz, 1H), 4.46 (m, 2H), 3.78-3.79 (m, 2H), 3.55 (d, J=8.9 Hz, 1H), 3.35 (d, J=8.9 Hz, 1H), 2.98-3.12 (m, 2H), 2.08-2.40 (m, 2H), 1.68-1.87 (m, 2H), 1.46 (m, 3H), 1.43 (s, 9H). Mass spec.: 529.19 (MH)+.

reactant | (±)-tert-Butyl 4-((1-(3-cyano-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.14 mmol, 95 mg | C(#N)C=1N(N=C2C(=CC(=CC12)C(F)(F)F)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C34H45F3N4O4Si
reactant | trifluoroacetic acid methylene chloride | 2 mL | FC(C(=O)O)(F)F.C(Cl)Cl
reactant | di-tert-butyl carbonate | 0.29 mmol, 63 mg | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | triethylamine | 0.22 mmol, 30 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
catalyst | ammonia | 2 M, a few drops | N | H3N
solvent | methanol | CO | CH4O
product | (±)-tert-Butyl 4-((1-(3-cyano-5-(trifluoromethyl)-1H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | C(#N)C1=NNC2=C(C=C(C=C12)C(F)(F)F)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C28H31F3N4O3
